US09428498B2
Methyl 5-[(oxan-4-yl)amino]pyrazine-2-carboxylat
Methyl 5-chloro-2-pyrazinecarboxylate (507 mg, 2.94 mmol), Et3N (1.08 mL, 7.64 mmol) and 4-aminotetrahydropyran (0.40 mL, 3.82 mmol) were dissolved in dioxane (5 mL) and heated in a microwave reactor at 100° C. for 20 min. Water (50 mL) and brine (25 mL) were added and the reaction mixture was extracted into EtOAc (2×100 mL), dried (MgSO4) and concentrated in vacuo to give the title compound (236 mg, 33.9%) as a yellow oil. LCMS (ES+): 238.2 [MH]+.

reactant | Methyl 5-chloro-2-pyrazinecarboxylate | 2.94 mmol, 507 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | Et3N | 7.64 mmol, 1.08 mL | CCN(CC)CC | C6H15N
reactant | 4-aminotetrahydropyran | 3.82 mmol, 0.40 mL | NC1CCOCC1 | C5H11NO
reactant | Water | 50 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | brine | 25 mL | [Cl-].[Na+].O
product | Methyl 5-[(oxan-4-yl)amino]pyrazine-2-carboxylat | 236 mg, 33.9% | O1CCC(CC1)NC=1N=CC(=NC1)C(=O)OC | C11H15N3O3
